US06028096
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-oximinomethylpyrazole
A mixture of 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-formylpyrazole (0.4 g), hydroxylamine hydrochloride (0.4 g), tetrahydrofuran (5 ml), methanol (50 ml) and water (2.5 ml) were stirred overnight. The mixture was partitioned between ether (50 ml) and water. The organic layer was separated, washed with saturated aqueous sodium hydrogen carbonate solution (50 ml), water (50 ml), then dried over Na2SO4 and evaporated to provide the title compound as a white solid, m.p. 170° C.

reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-formylpyrazole | 0.4 g | C(#N)C1=NN(C=C1C=O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H4Cl2F3N3O
reactant | hydroxylamine hydrochloride | 0.4 g | Cl.NO
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | methanol | 50 ml | CO | CH4O
solvent | water | 2.5 ml | O | H2O
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-oximinomethylpyrazole | C(#N)C1=NN(C=C1C=NO)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H5Cl2F3N4O
